* PEX produced on Fri Aug  7 09:00:33 PM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from vco_delay_cell_0.ext - technology: ihp-sg13cmos5l

.subckt vco_delay_cell_0 ngt pgt out in vp gnd
X0 a_n14_206# in out vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.36u
X1 out in a_n14_206# vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.36u
X2 a_n16_n222# a_n28_n550# gnd gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.76u
X3 a_n16_n222# in out gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.36u
X4 gnd a_n28_n550# a_n16_n222# gnd sg13_lv_nmos ad=0.136p pd=1.48u as=76f ps=0.78u w=0.4u l=0.76u
X5 out in a_n16_n222# gnd sg13_lv_nmos ad=76f pd=0.78u as=0.136p ps=1.48u w=0.4u l=0.36u
X6 vp a_n18_474# a_n14_206# vp sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.72u
X7 a_n14_206# a_n18_474# vp vp sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.72u
C0 vp in 0.30783f
C1 a_n18_474# a_n14_206# 0.16924f
C2 a_n16_n222# in 0.07764f
C3 pgt a_n14_206# 0.01041f
C4 vp out 0.05867f
C5 a_n16_n222# out 0.17336f
C6 out in 0.31805f
C7 pgt a_n18_474# 0.07415f
C8 a_n14_206# vp 0.16859f
C9 a_n28_n550# ngt 0.0723f
C10 a_n14_206# in 0.09397f
C11 a_n14_206# out 0.18615f
C12 a_n16_n222# a_n28_n550# 0.18712f
C13 a_n28_n550# in 0.04904f
C14 a_n18_474# vp 0.99388f
C15 pgt vp 0.09998f
C16 a_n18_474# in 0.05469f
C17 pgt in 0.02883f
C18 pgt out 0.02974f
C19 a_n16_n222# ngt 0.01224f
C20 in ngt 0.03066f
C21 out ngt 0.03284f
C22 ngt gnd 0.17782f
C23 pgt gnd 0.08042f
C24 out gnd 0.4424f
C25 vp gnd 0.15291f
C26 a_n16_n222# gnd 0.65472f
C27 a_n14_206# gnd 0.31047f
.ends

